US07557131B2
Preparation 59: 2-(Piperidin-4-yloxy)benzonitrile
1-Boc-4-hydroxypiperidine (20 g, 99.35 mmol) and 2-cyanophenol (11.82 g, 99.35 mmol) were added to mixture of triphenylphosphine (26.06 g, 99.35 mmol) and di-tert-butyl azodicarboxylate (19.56 mL, 99.35 mmol) in tetrahydrofuran (800 mL) and the mixture was stirred at room temperature for 18 hours. The reaction mixture was then concentrated in vacuo and the residue was taken up in hydrochloric acid (4M in dioxane, 300 mL). The reaction mixture was stirred at room temperature for 18 hours and was then concentrated in vacuo. The residue was partitioned between water and ethyl acetate and the aqueous layer was separated and washed with ethyl acetate (2×100 mL). The aqueous solution was then basified with 2M sodium hydroxide solution and then extracted with diethyl ether (3×100 mL). The combined organic solution was dried over magnesium sulfate and concentrated in vacuo to afford the title compound as a white solid in quantitative yield. LRMS ESI m/z 203 [M+H]+

reactant | 1-Boc-4-hydroxypiperidine | 99.35 mmol, 20 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | 2-cyanophenol | 99.35 mmol, 11.82 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | triphenylphosphine | 99.35 mmol, 26.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 99.35 mmol, 19.56 mL | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
product | 2-(Piperidin-4-yloxy)benzonitrile | quantitative yield | N1CCC(CC1)OC1=C(C#N)C=CC=C1 | C12H14N2O
